US04927835
3-(N,N-Dimethylaminomethyl)-5-(1,1-dimethylethyl)-4-hydroxybenzophenone.
3-(1,1-Dimethylethyl)-4-hydroxybenzophenone (2.5 g), 1.71 g of dimethylamine hydrochloride, 0.78 g of sodium hydroxide, and 0.68 g of paraformaldehyde were dissolved in 30 ml of ethanol and the mixture was heated to reflux for 16 hours. The ethanol was then evaporate. Water was added to the residue and the crystals which separated out were filtered and recrystallized from 90% ethanol to give 2.1 g of the desire product, m.p. 129° C.

reactant | 3-(1,1-Dimethylethyl)-4-hydroxybenzophenone | 2.5 g | CC(C)(C)C=1C=C(C(=O)C2=CC=CC=C2)C=CC1O | C17H18O2
reactant | dimethylamine hydrochloride | 1.71 g | Cl.CNC
reactant | sodium hydroxide | 0.78 g | [OH-].[Na+]
reactant | paraformaldehyde | 0.68 g | C=O | CH2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-(N,N-Dimethylaminomethyl)-5-(1,1-dimethylethyl)-4-hydroxybenzophenone | 2.1 g | CN(C)CC=1C=C(C(=O)C2=CC=CC=C2)C=C(C1O)C(C)(C)C | C20H25NO2
